US04600429
Chloromethanephosphonic acid (5.5 g, 42 mmoles) and 1.10-diaminodecane (44 g, 255 mmoles) were heated under reflux in water (200 cm3) for 20 hours. The water was removed and ethanol (400 cm3) added to the solid residue. The phosphonic acid was filtered off and dried. The crude yield was 11.4 g (87%). A sample was purified by recrystallization from water/ethanol to give N-(10-aminodecyl)-aminomethanephosphonic acid monohydrate as a fine white crystalline solid having a melting point of 238° C.

reactant | Chloromethanephosphonic acid | 42 mmoles, 5.5 g | ClCP(O)(=O)O | CH4ClO3P
reactant | 1.10-diaminodecane | 255 mmoles, 44 g | NCCCCCCCCCCN | C10H24N2
solvent | water | 200 cm3 | O | H2O
product | N-(10-aminodecyl)-aminomethanephosphonic acid monohydrate | O.NCCCCCCCCCCNCP(O)(=O)O | InChI=1S/C11H27N2O3P.H2O/c12-9-7-5-3-1-2-4-6-8-10-13-11-17(14,15)16;/h13H,1-12H2,(H2,14,15,16);1H2
